US09034900B2
Step 2: 2-chlorofuro[2,3-c]pyridin-7-ol
A 0.25M solution of 2-chloro-7-methoxyfuro[2,3-c]pyridine (263 mg, 1.4 mmol) in DCM stirred at −0° C. under an atmosphere of nitrogen was treated with BBr3 (1 M in DCM, 4.3 mL, 4.3 mmol) dropwise over 5 min. The mixture was allowed to warm gradually to rt. After the mixture was allowed to stir overnight, it was poured into ice water and extracted with DCM (3×15 mL). The combined organic layers were washed with water and brine (10 mL), dried over Na2SO4, filtered and concentrated in vacuo. The resulting residue was purified by silica gel column chromatography using a gradient of EtOAc (15 to 75%) in hexanes to afford the title compound (115 mg, 47%) as light yellow solid. LCMS (M+H)+=170.

reactant | 2-chloro-7-methoxyfuro[2,3-c]pyridine | 1.4 mmol, 263 mg | ClC1=CC=2C(=C(N=CC2)OC)O1 | C8H6ClNO2
reactant | BBr3 | 4.3 mmol, 1 M, 4.3 mL | B(Br)(Br)Br | BBr3
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 2-chlorofuro[2,3-c]pyridin-7-ol | 115 mg, 47% | ClC1=CC=2C(=C(N=CC2)O)O1 | C7H4ClNO2
